US08748462B2
2-(5-(Difluoromethyl)-2-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (T34.1)
A stirred mixture of 1-bromo-5-difluoromethyl-2-fluorobenzene (commercially available from Oakwood Products, Inc.) (2.0231 g, 8.991 mmol), bis(pinacolato)diboron (2.5123 g, 9.893 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) DCM adduct (0.3688 g, 0.4516 mmol), and potassium acetate (2.6504 g, 27.01 mmol) in dry 1,4-dioxane (35 mL) was purged with argon and placed under vacuum and the purging vacuum process repeated three times. The mixture was heated to 90° C. and monitored with LC-MS and TLC. After 18 hours, the reaction was cooled to room temperature and then filtered through Celite® filter aid. The organic solvent was removed under reduced pressure, and the residue was purified on a 40 g column of silica gel (0-10% EtOAc in hexanes) to afford T34.1 as a colorless oil that was used without further purification (1.6019 g, 65% yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.89 (1H, td, J=2.7, 1.2 Hz), 7.63 (1H, m), 7.09 (1H, t, J=8.6 Hz), 6.62 (1H, t), 1.35 (12H, s).

reactant | 1-bromo-5-difluoromethyl-2-fluorobenzene | BrC1=C(C=CC(=C1)C(F)F)F | C7H4BrF3
reactant | bis(pinacolato)diboron | 9.893 mmol, 2.5123 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 27.01 mmol, 2.6504 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.4516 mmol, 0.3688 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(5-(Difluoromethyl)-2-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 65% yield | FC(C=1C=CC(=C(C1)B1OC(C(O1)(C)C)(C)C)F)F | C13H16BF3O2
